US05391541
By the method of Example 1, Step H, 24.5 grams (0.064 mole) of 3-(2,3-dichloro-5-nitrophenylmethyl)-6-trifluoromethyluracil, 12.07 grams (0.096 mole) of dimethyl sulfate, and 17.64 grams (0.127 mole) of potassium carbonate were reacted in 300 mL of acetone, yielding 5.30 grams of 3-(2,3-dichloro-5-nitrophenylmethyl)-1-methyl-6-trifluoromethyluracil as a bright yellow solid. The NMR spectrum was consistent with the proposed structure.

reactant | 3-(2,3-dichloro-5-nitrophenylmethyl)-6-trifluoromethyluracil | 0.064 mole, 24.5 grams | ClC1=C(C=C(C=C1Cl)[N+](=O)[O-])CN1C(NC(=CC1=O)C(F)(F)F)=O | C12H6Cl2F3N3O4
reactant | dimethyl sulfate | 0.096 mole, 12.07 grams | S(=O)(=O)(OC)OC | C2H6O4S
reactant | potassium carbonate | 0.127 mole, 17.64 grams | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 300 mL | CC(=O)C | C3H6O
product | 3-(2,3-dichloro-5-nitrophenylmethyl)-1-methyl-6-trifluoromethyluracil | 5.30 grams | ClC1=C(C=C(C=C1Cl)[N+](=O)[O-])CN1C(N(C(=CC1=O)C(F)(F)F)C)=O | C13H8Cl2F3N3O4
